US04933453
3-(4-(1-(1,2-Benzisothiazol-3-yl)-4-piperazinyl)butyl)-2-methyl-1-thia-3-azaspiro[4.4]nonan-4-one hydrochloride
A mixture of 3-(4-bromobutyl)-2-methyl-1-thia-3-azaspiro[4.4]nonan-4-one (3.84 g), 1-(1,2-benzisothiazol-3-yl)piperazine hydrochloride (3.49 g), K2CO3 (5.90 g) and NaI (280 mg) in acetonitrile (215 ml) was heated at between 65°-80° C. for 16.5 hours and the product was processed in substantially the same manner as in Example 10 to afford 2.86 g of crystals, m.p. 210°-215° C.

reactant | 3-(4-bromobutyl)-2-methyl-1-thia-3-azaspiro[4.4]nonan-4-one | 3.84 g | BrCCCCN1C(SC2(C1=O)CCCC2)C | C12H20BrNOS
reactant | 1-(1,2-benzisothiazol-3-yl)piperazine hydrochloride | 3.49 g | Cl.S1N=C(C2=C1C=CC=C2)N2CCNCC2
reactant | K2CO3 | 5.90 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 280 mg | [Na+].[I-]
solvent | acetonitrile | 215 ml | C(C)#N | C2H3N
product | 3-(4-(1-(1,2-Benzisothiazol-3-yl)-4-piperazinyl)butyl)-2-methyl-1-thia-3-azaspiro[4.4]nonan-4-one hydrochloride | 2.86 g | Cl.S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCCN2C(SC1(C2=O)CCCC1)C | InChI=1S/C23H32N4OS2.ClH/c1-18-27(22(28)23(29-18)10-4-5-11-23)13-7-6-12-25-14-16-26(17-15-25)21-19-8-2-3-9-20(19)30-24-21;/h2-3,8-9,18H,4-7,10-17H2,1H3;1H
